US07056924B2
2-amino-4-phenylphenol (0.180 g, 0.97 mmol) was placed in a Smith Process Vial™ (Personal Chemistry, Inc., Uppsala) (3 mL glass vessel) followed by the addition of 1-chloro-2,2,2-trimethoxyethane (1 mL). The vial was sealed and the mixture was heated in the Emrys Optimizer™ (Personal Chemistry, Inc., Uppsala) microwave at 160° C. for 300 s, fixed hold time on, absorption level normal, pre-stirring 10 s. It was then cooled to room temperature, diluted with 2 mL of methanol and purified by semi-prep HPLC. The HPLC fractions were evaporated under reduced pressure to furnish 2-(chloromethyl)-5-phenyl-benzoxazole as an off-white solid.

reactant | 2-amino-4-phenylphenol | 0.97 mmol, 0.180 g | NC1=C(C=CC(=C1)C1=CC=CC=C1)O | C12H11NO
reactant | 1-chloro-2,2,2-trimethoxyethane | 1 mL | ClCC(OC)(OC)OC | C5H11ClO3
product | 2-(chloromethyl)-5-phenyl-benzoxazole | ClCC=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C14H10ClNO
